US07745641B2
In a similar manner to Step 3 of Example 16, 4-methoxymethoxy-5-dimethoxymethyl-3-hydroxy-2-(1-methyl-1-phenylethyl)isoindolinone (3.34 g, 8.31 mmol) was dissolved in THF (100 mL), and the solution was treated with TMEDA (4.00 mL, 27.0 mmol), sec-butyl lithium-hexane solution (1.03 mol/L, 25.8 mL, 26.6 mmol) and iodine (3.16 g, 12.5 mmol), followed by purification by slurry using methanol and diisopropylether to obtain 4-methoxymethoxy-5-dimethoxymethyl-3-hydroxy-7-iodo-2-(1-methyl-1-phenylethyl)isoindolinone (2.24 g, yield 51%).

reactant | 4-methoxymethoxy-5-dimethoxymethyl-3-hydroxy-2-(1-methyl-1-phenylethyl)isoindolinone | 8.31 mmol, 3.34 g | COCOC1=C2C(N(C(C2=CC=C1C(OC)OC)=O)C(C)(C1=CC=CC=C1)C)O | C22H27NO6
reactant | TMEDA | 27.0 mmol, 4.00 mL | CN(C)CCN(C)C | C6H16N2
reactant | iodine | 12.5 mmol, 3.16 g | II | I2
solvent | THF | 100 mL | C1CCOC1 | C4H8O
product | 4-methoxymethoxy-5-dimethoxymethyl-3-hydroxy-7-iodo-2-(1-methyl-1-phenylethyl)isoindolinone | 2.24 g, yield 51% | COCOC1=C2C(N(C(C2=C(C=C1C(OC)OC)I)=O)C(C)(C1=CC=CC=C1)C)O | C22H26INO6
